* C:\Users\jonas\Documents\ECOLE\magnetic_chess\simulation\flyback_diodes2.asc
L1 row2 col0 1 Ipk=3 Rser=5
L2 row2 col1 1 Ipk=3 Rser=0.1
L3 row1 col0 20m Ipk=0.069 Rser=5 Rpar=0 Cpar=0
L4 row1 col1 1 Ipk=3 Rser=0.1
V1 N001 0 5 Rser=3
V2 a 0 PULSE(0 10 0.2 0.001 0.001 0.3 0.5 5)
V5 d 0 0
V3 b 0 0
V4 c 0 PULSE(0 10 0.2 0.001 0.001 0.3 0.5 5)
Q1 N001 a row1 0 2SCR542F3
Q2 N001 b row2 0 2SCR542F3
Q3 col0 c 0 0 2SCR542F3
Q4 col1 d 0 0 2SCR542F3
D1 col1 row2 D
D2 col0 row2 D
D3 col1 row1 D
D4 col0 row1 D
.model D D
.lib C:\Users\jonas\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\jonas\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1
.backanno
.end
